US06756395B2
To a solution of 7-amino-benzofuran-4-carboxylic acid methyl ester (6.14 g, 32.1 mmol) and pyridine (13.69 g, 173 mmole) in dichloromethane (100 mL) was added methanesulfonyl chloride (2.8 mL, 36.2 mmol). The reaction mixture was stirred at room temperature under nitrogen for 72 hours. The solvent was removed under reduced pressure and the residue partitioned between dichloromethane and 1 N hydrochloric acid. The organic extract was dried (anhydrous sodium sulfate) and concentrated. The residue was purified by flash column chromatography over silica gel eluting with 20 to 30% ethyl acetate in hexane to give 7-methanesulfonyl-amino-benzofuran-4-carboxylic acid methyl ester (7.73 g, 89%) as a solid. 1H NMR (CDCl3) δ: 3.15 (s, 3H), 3.98 (s, 3H), 7.43 (d, 1H, J=2.2 Hz), 7.50 (d, 1H, J=8.4 Hz), 7.74 (d, 1H, J=2.1 Hz), 8.00 (d, 1H, J=8.3 Hz).

reactant | 7-amino-benzofuran-4-carboxylic acid methyl ester | 32.1 mmol, 6.14 g | COC(=O)C=1C=CC(=C2C1C=CO2)N | C10H9NO3
reactant | pyridine | 173 mmole, 13.69 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 36.2 mmol, 2.8 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 7-methanesulfonyl-amino-benzofuran-4-carboxylic acid methyl ester | 7.73 g, 89% | COC(=O)C=1C=CC(=C2C1C=C(O2)N)S(=O)(=O)C | C11H11NO5S
